US08071813B2
Fabrication of 3-(Methoxymethyl)-1-methylimidazolium chloride
Into a 500 mL round-bottomed flask equipped with a stir bar, Argon inlet and addition funnel was dissolved 1-methylimidazole (25 g, 0.31 mol) in trichloroethylene (100 mL). With stirring chloromethyl methyl ether (35 g, 0.43 mol) was added slowly dropwise over a 0.5 h period. The mixture warmed and a turbid, two-layer mixture formed upon addition. The mixture was refluxed 2 h, cooled and poured into a separatory funnel. The organic layer was separated, filtered and the solvent was removed under vacuum at 45° C. to yield a tan-beige viscous liquid (52 g).

reactant | 1-methylimidazole | 0.31 mol, 25 g | CN1C=NC=C1 | C4H6N2
reactant | chloromethyl methyl ether | 0.43 mol, 35 g | COCCl | C2H5ClO
solvent | trichloroethylene | 100 mL | ClC=C(Cl)Cl | C2HCl3
product | 3-(Methoxymethyl)-1-methylimidazolium chloride | 52 g | [Cl-].COCN1C=[N+](C=C1)C | InChI=1S/C6H11N2O.ClH/c1-7-3-4-8(5-7)6-9-2;/h3-5H,6H2,1-2H3;1H/q+1;/p-1
